US06187769B1
Synthesis of 7-chloro-4-(2-chloroethyl)-4,5-dihydro-1,4-benzoxazepin-5-one
50 mg of 7-chloro-4,5-dihydro-1,4-benzoxazepin-5-one was dissolved in dimethylformamide (1 ml), then 12 mg (1.2 equivalents) of 60% sodium hydride was added under ice cooling. This was agitated for 30 minutes, then 54 mg (1.5 equivalents) of 1-bromo-2-chloroethane was added and the result was agitated at room temperature for 10 hours. Ice water was added to the reaction solution, and extraction was performed by ethyl acetate. This ethyl acetate extract was washed by saline and was dried with anhydrous magnesium sulfate. The solvent was distilled off and the resultant crude product was refined with silica gel column chromatography (hexane:ethyl acetate 4:1) to obtain the above-referenced compound in an amount. of 28 mg (yield of 42%).

reactant | 7-chloro-4,5-dihydro-1,4-benzoxazepin-5-one | 50 mg | ClC=1C=CC2=C(C(NC=CO2)=O)C1 | C9H6ClNO2
reactant | sodium hydride | 12 mg, 1.2 equivalents | [H-].[Na+]
reactant | 1-bromo-2-chloroethane | 54 mg, 1.5 equivalents | BrCCCl | C2H4BrCl
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 7-chloro-4-(2-chloroethyl)-4,5-dihydro-1,4-benzoxazepin-5-one | yield of 42% | ClC=1C=CC2=C(C(N(C=CO2)CCCl)=O)C1 | C11H9Cl2NO2
